US08008525B2
1-[3-(Bromomethyl)phenoxy]naphthalene
1-(3-Methylphenoxy)naphthalene (500 mg, 2.1 mmol) was dissolved in benzotrifluoride (30 mL), N-bromosuccinimide (417 mg, 2.3 mmol) and 2,2′-azobis(isobutyronitrile) (10 mg, 0.06 mmol) were added thereto, and then the mixture was stirred at 100° C. for 4 hours. The reaction solution was filtered, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 90:10) to give the title compound (481 mg, yield 73%).

reactant | 1-(3-Methylphenoxy)naphthalene | 2.1 mmol, 500 mg | CC=1C=C(OC2=CC=CC3=CC=CC=C23)C=CC1 | C17H14O
reactant | N-bromosuccinimide | 2.3 mmol, 417 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | benzotrifluoride | 30 mL | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
catalyst | 2,2′-azobis(isobutyronitrile) | 0.06 mmol, 10 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 1-[3-(Bromomethyl)phenoxy]naphthalene | 481 mg, yield 73% | BrCC=1C=C(OC2=CC=CC3=CC=CC=C23)C=CC1 | C17H13BrO
